US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-(p-chlorobenzoyl)-4-[(1,2-diphenylethyl)amino]butyric acid and ethyl 3-aminopropionate and suitable processing, dissolving the evaporation residue in ethanol, adding an ethanolic solution of potassium hydroxide, stirring for 12 hours at room temperature and further processing yields N-[N-(p-chlorobenzoyl)-4-(1,2-diphenylethylamino)butyryl]-3-aminopropionic acid.

reactant | N-(p-chlorobenzoyl)-4-[(1,2-diphenylethyl)amino]butyric acid | ClC1=CC=C(C(=O)N(CCCC(=O)O)C(CC2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C25H24ClNO3
reactant | ethyl 3-aminopropionate | NCCC(=O)OCC | C5H11NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | N-[N-(p-chlorobenzoyl)-4-(1,2-diphenylethylamino)butyryl]-3-aminopropionic acid | ClC1=CC=C(C(=O)N(CCCC(=O)NCCC(=O)O)C(CC2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C28H29ClN2O4
